US07741326B2
4-[2-Carbamoyl-1-(3-fluoro-benzyl)-1H-indol-4-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (156 mg, 0.35 mmol) in EtOH (20 ml) was added to a Parr vessel containing catalytic amount of 5% Pd on carbon. The vessel was purged with H2 at the pressure of 50 psi (3.45 bar). After shaking overnight, the reaction mixture was filtered through Celite and concentrated. The brown residue was purified by flash chromatography to give 4-[2-carbamoyl-1-(3-fluoro-benzyl)-1H-indol-4-yl]-piperidine-1-carboxylic acid tert-butyl ester as yellow solid (76 mg, 48%).

reactant | 4-[2-Carbamoyl-1-(3-fluoro-benzyl)-1H-indol-4-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.35 mmol, 156 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=C2C=C(N(C2=CC=C1)CC1=CC(=CC=C1)F)C(N)=O | C26H28FN3O3
solvent | EtOH | 20 ml | CCO | C2H6O
catalyst | Pd on carbon | [Pd] | Pd
product | 4-[2-carbamoyl-1-(3-fluoro-benzyl)-1H-indol-4-yl]-piperidine-1-carboxylic acid tert-butyl ester | 76 mg, 48% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C2C=C(N(C2=CC=C1)CC1=CC(=CC=C1)F)C(N)=O | C26H30FN3O3
